US03985777
A mixture of 5-acetylsulphamyl-3-benzylamino-4-phenoxy-benzoic acid (1 g), ethanol (20 ml), and 4N hydrochloric acid (5ml) was refluxed for 2.5 hours. Then 2N sodium hydroxide (15 ml) was added, and the reaction mixture was heated on a steam bath for 30 minutes. After cooling, the pH was adjusted to 2.5 by addition of 4N hydrochloric acid, and the precipitated 3-benzylamino-4-phenoxy-5-sulphamyl-benzoic acid was isolated by filtation. After recrystallization from aqueous ethanol and drying, the compound was obtained with a melting point of 264°-265° C.

reactant | 5-acetylsulphamyl-3-benzylamino-4-phenoxy-benzoic acid | 1 g | C(C)(=O)NS(=O)(=O)C=1C(=C(C=C(C(=O)O)C1)NCC1=CC=CC=C1)OC1=CC=CC=C1 | C22H20N2O6S
reactant | hydrochloric acid | 4N, 5ml | Cl | ClH
reactant | sodium hydroxide | 2N, 15 ml | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-benzylamino-4-phenoxy-5-sulphamyl-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C20H18N2O5S
